US07091214B2
tert-Butyl {4-[(3-amino-7-bromoquinolin-4-ylamino)methyl]benzyl}carbamate (8.46 g, 18.5 mmol), triethylamine (2.25 mL) and dichloromethane (92 mL) were combined. Ethoxyacetyl chloride (2.92 g, 24 mmol) was added dropwise to the mixture. The reaction was stirred for an additional 1.5 hours and then concentrated under reduced pressure. Ethanol (92 mL) and triethylamine (10.31 mL) were added to the residue and the reaction was heated at reflux temperature for 1.5 hours. A precipitate formed. The reaction was cooled to room temperature and then concentrated under reduced pressure. The residue was dissolved in dichloromethane and washed sequentially with water and saturated aqueous sodium chloride. The organic fraction was dried over magnesium sulfate, filtered, and concentrated under reduced pressure. An initial purification by flash column chromatography eluting with a gradient of CMA in chloroform (2–10%) was followed by recrystallization from acetonitrile to provide 3.4 g of tert-butyl[4-(7-bromo-2-ethoxymethyl-1H-imidazo[4,5-c]quinolin-1-ylmethyl)benzyl]carbamate as yellow-orange crystals.

reactant | tert-Butyl {4-[(3-amino-7-bromoquinolin-4-ylamino)methyl]benzyl}carbamate | 18.5 mmol, 8.46 g | NC=1C=NC2=CC(=CC=C2C1NCC1=CC=C(CNC(OC(C)(C)C)=O)C=C1)Br | C22H25BrN4O2
reactant | triethylamine | 2.25 mL | C(C)N(CC)CC | C6H15N
reactant | Ethoxyacetyl chloride | 24 mmol, 2.92 g | C(C)OCC(=O)Cl | C4H7ClO2
solvent | dichloromethane | 92 mL | ClCCl | CH2Cl2
product | tert-butyl[4-(7-bromo-2-ethoxymethyl-1H-imidazo[4,5-c]quinolin-1-ylmethyl)benzyl]carbamate | 3.4 g | C(C)(C)(C)OC(NCC1=CC=C(C=C1)CN1C(=NC=2C=NC=3C=C(C=CC3C21)Br)COCC)=O | C26H29BrN4O3
